US07834012B2
1,2,4-Trifluoro-5-(1-nitropent-4-en-2-yl)benzene
To a cooled (−40° C.) solution of (E)-1,2,4-trifluoro-5-(2-nitrovinyl)benzene (250 g, 1.23 mol) in THF (490 mL), allylmagnesium chloride (800 mL, 1.6 mol, 2 M in THF) was added at such a rate as to maintain the internal temperature below −20° C. The solution was stirred at −20° C. for thirty minutes and then carefully quenched by the addition of 2M HCl (1 L), while maintaining the temperature below −5° C. Methyl t-butyl ether (500 mL) was added, and the biphasic solution was allowed to warm to >10° C. The layers were separated, and the organic was washed with H2O (1×500 mL), saturated aqueous NaHCO3 (1×500 mL), and brine (1×500 mL). The organic layer was concentrated to dryness, and the crude product was filtered through a 450 g plug of silica gel (eluting with 5% ethyl acetate in hexane at a flow rate of 90 mL/min). The first 100 mL of eluent was discarded, and the subsequent 2 L were collected and concentrated to dryness to give the title compound as an oil (268 g, 89%). 1H NMR (300 MHz, CDCl3) δ ppm 7.05-6.90 (m, 2H), 5.65 (dddd, J=7.5, 7.5, 9.5, and 16.6, Hz, 1H), 5.12-5.06 (m, 2H), 4.63 (d, J=7.5 Hz, 2H), 3.75 (p, J=7.5 Hz, 1H), and 2.48 (t, J=7.5 Hz, 2H).

reactant | (E)-1,2,4-trifluoro-5-(2-nitrovinyl)benzene | 1.23 mol, 250 g | FC1=C(C=C(C(=C1)\C=C\[N+](=O)[O-])F)F | C8H4F3NO2
reactant | allylmagnesium chloride | 1.6 mol, 2 M, 800 mL | C(C=C)[Mg]Cl
solvent | THF | 490 mL | C1CCOC1 | C4H8O
product | 1,2,4-Trifluoro-5-(1-nitropent-4-en-2-yl)benzene | 268 g, 89% | FC1=C(C=C(C(=C1)C(C[N+](=O)[O-])CC=C)F)F | C11H10F3NO2
